US07291734B2
1.9 ml of an aqueous 0.1 M NaOH solution are added to a solution of 118 mg of 2-[2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide in 10 ml of EtOH, and the mixture obtained is stirred at RT for 5 minutes. From the mixture obtained solvent is evaporated and the evaporation residue obtained is subjected to lyophilisation. [2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide sodium salt is obtained.

reactant | NaOH | 0.1 M | [OH-].[Na+]
reactant | 2-[2-(3,5-bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide | 118 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC=1SC=2CN(CCC2N1)C1=C(C(=O)N)C=CC(=C1)C(F)(F)F)(F)F | C22H15F9N4O3S2
solvent | EtOH | 10 ml | CCO | C2H6O
product | [2-(3,5-Bis-trifluoromethyl-benzenesulfonylamino)-6,7-dihydro-4H-thiazolo-[5,4-c]pyridin-5-yl]-4-trifluoromethyl-benzamide sodium salt | [Na+].FC(C=1C=C(C=C(C1)C(F)(F)F)S(=O)(=O)NC=1SC=2CN(CCC2N1)C1=C(C(=O)[NH-])C=CC(=C1)C(F)(F)F)(F)F | InChI=1S/C22H15F9N4O3S2.Na/c23-20(24,25)10-1-2-14(18(32)36)16(8-10)35-4-3-15-17(9-35)39-19(33-15)34-40(37,38)13-6-11(21(26,27)28)5-12(7-13)22(29,30)31;/h1-2,5-8H,3-4,9H2,(H3,32,33,34,36);/q;+1/p-1
